US06660744B1
Procedure for thiazole synthesis: 9H-9-fluorenyl-methyl-N-[(4-bromoanilino)carbothioyl]carbamate (0.25 g, 0.55 mmol) was dissolved in piperidine/N,N-dimethylformamide (1:6, 3.5 mL) and the mixture stirred at ambient temperature for 2 h. The solvent was removed under reduced pressure and the residue dissolved in a mixture of acetic acid (1 mL), ethanol (2 mL), and dioxane (2 mL). 1-Bromo-2-butanone (90%, 0.11 mL, 1.10 mmol) was added and the mixture was stirred for 14 h at ambient temperature. The reaction mixture was diluted with half saturated aqueous sodium carbonate (15 mL) and extracted with methanol/dichloromethane (1:19, 3×20 mL). The combined organic layers were dried (magnesium sulfate), filtered, concentrated and purified by flash column chromatography on silica gel using ethyl acetate/heptane (1:4) to afford the bromothiazole N-(4-bromophenyl)-N-(4-ethyl-1,3-thiazol-2-yl)amine (0.15 g, 0.53 mmol): RP-HPLC (25 to 100% acetonitrile in 0.1 M aqueous ammonium acetate over 10 min at 1 mL/min using a 5μ Hypersil HS C18, 250×4.6 mm column) Rt 13.15 min.

reactant | thiazole | S1C=NC=C1 | C3H3NS
reactant | 9H-9-fluorenyl-methyl-N-[(4-bromoanilino)carbothioyl]carbamate | 0.55 mmol, 0.25 g | C1=CC=CC=2C3=CC=CC=C3C(C12)OC(N(C(=S)NC1=CC=C(C=C1)Br)C)=O | C22H17BrN2O2S
reactant | 1-Bromo-2-butanone | 1.10 mmol, 0.11 mL | BrCC(CC)=O | C4H7BrO
solvent | piperidine N,N-dimethylformamide | 3.5 mL | N1CCCCC1.CN(C=O)C
solvent | sodium carbonate | 15 mL | C([O-])([O-])=O.[Na+].[Na+]
product | bromothiazole N-(4-bromophenyl)-N-(4-ethyl-1,3-thiazol-2-yl)amine | 0.53 mmol, 0.15 g | BrC1=CC=C(C=C1)NC=1SC=C(N1)CC.BrC=1SC=CN1 | InChI=1S/C11H11BrN2S.C3H2BrNS/c1-2-9-7-15-11(13-9)14-10-5-3-8(12)4-6-10;4-3-5-1-2-6-3/h3-7H,2H2,1H3,(H,13,14);1-2H
